US06015818
To a solution of methyl 3-methoxy-4-(methylcarbamoyl)-cinnamate (300 mg) in methanol was added 1H aqueous sodium hydroxide solution (1.5 ml) at ambient temperature, and the mixture was stirred for 5 hours at 50° C. The solvent was removed, and water was added thereto. The mixture was washed with diethyl ether and adjusted to pH 4 with 1N hydrochloric acid. The resulting precipitate was collected by filtration and washed with water to give 3-methoxy-4-(methylcarbamoyl)-cinnamic acid (250 mg).

reactant | methyl 3-methoxy-4-(methylcarbamoyl)-cinnamate | 300 mg | COC=1C=C(C=CC(=O)OC)C=CC1C(NC)=O | C13H15NO4
reactant | sodium hydroxide | 1.5 ml | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 3-methoxy-4-(methylcarbamoyl)-cinnamic acid | 250 mg | COC=1C=C(C=CC(=O)O)C=CC1C(NC)=O | C12H13NO4
